US05220042
700 Milligrams of 3-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propionyl alcohol was dissolved in 20 ml of anhydrous methylene chloride, under argon gas stream condition, 0.21 ml of methanesulfonyl chloride, 0.3 ml of triethylamine were added thereto under ice-cooled condition. The temperature of the reaction mixture was elevated to room temperature, then the reaction mixture was stirred continuously for 12 hours. 100 Milliliters of ethyl acetate was added to the reaction mixture, and the organic layer was washed with water, a saturated sodium chloride aqueous solution, then concentrated to yield 700 mg of 3-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propyl methanesulfonate was obtained as a mesylate. Colorless oily substance.

reactant | 3-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propionyl alcohol | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCC(=O)O | C15H22O8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonyl chloride | 0.21 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | 3-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propyl methanesulfonate | 700 mg | CS(=O)(=O)OCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C16H26O9S
